US09399635B2
(1) Synthesis of (1E,6E)-1-(1H-indol-2-yl)-7-[2-methoxy-4-(4-pyridylmethoxy) phenyl]hepta-1,6-diene-3,5-dione
In a 20 mL reaction vessel were placed 31.0 mg (136 μmol) of 6-(1H-indol-2-yl)hex-5-ene-2,4-dione and 13.2 mg (0.190 mmol) of boron oxide and they were dissolved in 0.88 mL of ethyl acetate. To the mixture under stirring at 70° C., 33 mg (0.14 mmol) of 2-methoxy-4-(4-pyridylmethoxy)benzaldehyde and 62 μL (0.27 mmol) of triisopropyl borate were sequentially added. After the mixture was stirred at the same temperature for 1 hour, a solution of 2.7 μL (27 μmol) of piperidine in ethyl acetate (0.135 mL) was added and the mixture was further stirred for 1 hour. To the reaction mixture was added a 1:1 solution (0.4 mL) of 1 N hydrochloric acid and saturated brine at room temperature and the mixture was stirred for 5 minutes to 1 hour (further, the mixture was neutralized with a saturated sodium bicarbonate aqueous solution as needed). The resulting organic phase was directly subjected to purification by silica gel column chromatography (hexane/ethyl acetate or methylene chloride/methanol) to give 47.3 mg (78% yield) of the title compound as an orange powder.

reactant | 6-(1H-indol-2-yl)hex-5-ene-2,4-dione | 136 μmol, 31.0 mg | N1C(=CC2=CC=CC=C12)C=CC(CC(C)=O)=O | C14H13NO2
reactant | boron oxide | 0.190 mmol, 13.2 mg | [B]=O | BO
reactant | 2-methoxy-4-(4-pyridylmethoxy)benzaldehyde | 0.14 mmol, 33 mg | COC1=C(C=O)C=CC(=C1)OCC1=CC=NC=C1 | C14H13NO3
reactant | triisopropyl borate | 0.27 mmol, 62 μL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | piperidine | 27 μmol, 2.7 μL | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 1 N, 0.4 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 0.88 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.135 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | (1E,6E)-1-(1H-indol-2-yl)-7-[2-methoxy-4-(4-pyridylmethoxy) phenyl]hepta-1,6-diene-3,5-dione | 47.3 mg, 78% yield | N1C(=CC2=CC=CC=C12)\C=C\C(CC(\C=C\C1=C(C=C(C=C1)OCC1=CC=NC=C1)OC)=O)=O | C28H24N2O4
